US06498172B1
3-(3-{[(4-Pyrazin-2-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step B was prepared from 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 9.06 (s, 1H), 8.99 (s, 1H), 8.80 (d, 1H), 8.62 (s, 1H), 8.51 (d, 1H), 8.06 (m, 1H), 7.89 (d, 2H), 7.43 (m, 1H), 7.23 (m, 2H), 7.15 (m, 1H), 7.06 (d, 1H), 6.92 (d, 1H), 6.86 (s, 1H), 4.42 (s, 2H), 4.37 (s, 2H), 3.65 (s, 3H), 2.82 (t, 2H), 2.50 (t, 2H); MS 502 (M+1).

reactant | 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-Pyrazin-2-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C1=NC=CN=C1)=O | C27H26N4O4S
